US07645789B2
To a solution of 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide (62 mg, 0.16 mmol) in anhydrous DMF (0.11 mL) and THF (1 mL) was added NaH (60% in mineral oil, 21 mg, 0.51 mmol) at room temperature under N2. After 30 min of stirring, the reaction mixture was cooled to 0° C. and 2-chloro-N,N-dimethylacetamide (11 mL, 0.14 mmol) was added. The reaction mixture was stirred for 5 min at 0° C. and then for 10 h at room temperature. The mixture was purified by preparative HPLC and the resultant solid was dissolved in DMF (0.6 mL) in the presence of Pd—C (10 mg). The mixture was stirred open to the atmosphere overnight at room temperature. The reaction mixture was filtrated and purified by preparative HPLC providing 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-(dimethylamino)-2-oxoethyl)-1H-indol-5-yl)cyclopropanecarboxamide. MS (ESI) m/e (M+H+) 462.0.

reactant | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butylindolin-5-yl)cyclopropanecarboxamide | 0.16 mmol, 62 mg | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1CC(NC1=CC2)C(C)(C)C | C23H26N2O3
reactant | NaH | 0.51 mmol, 21 mg | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylacetamide | 0.14 mmol, 11 mL | ClCC(=O)N(C)C | C4H8ClNO
solvent | DMF | 0.11 mL | CN(C)C=O | C3H7NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(benzo[d][1,3]dioxol-5-yl)-N-(2-tert-butyl-1-(2-(dimethylamino)-2-oxoethyl)-1H-indol-5-yl)cyclopropanecarboxamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=C1C=C(N(C1=CC2)CC(=O)N(C)C)C(C)(C)C | C27H31N3O4
